US08106064B2
N-{4-[6-(3-Cyano-5-methyl-benzoyl)-5-isopropyl-3-methanesulfonyl-2,4-dioxo-3,4-dihydro-2H-pyrimidin-1-ylmethyl]-6-fluoro-pyridin-2-yl}-methanesulfonamide (161):
3-[3-(2-Amino-6-fluoro-pyridin-4-ylmethyl)-5-isopropyl-2,6-dioxo-1,2,3,6-tetrahydro-pyrimidine-4-carbonyl]-5-methyl-benzonitrile (86 mg, 0.204 mmol) was dissolved in 5 mL THF. TEA (0.31 μl, 12 eq.) was added and the reaction was stirred at 0° C. for 10 minutes. MsCl (158 μl, 10 eq.) was added. The reaction was stirred at 0° C. for 40 minutes. The reaction crude was concentrated down and purified (silica gel, 0-80% EtOAC/hexane) to give white powder (89 mg, 75%). LC-MS shows 578.0 (M+1). 1H NMR (300 MHz, CDCl3): δ 9.6 (s, 1H), 7.98 (s, 1H), 7.83 (s, 1H), 7.76 (s, 1H), 7.07 (s, 1H), 6.83 (s, 1H), 4.82 (dd, 2H), 3.63 (s, 3H), 3.56 (s, 3H), 2.43 (s, 3H), 2.22 (m, 1H), 1.22 (dd, 6H).

reactant | 3-[3-(2-Amino-6-fluoro-pyridin-4-ylmethyl)-5-isopropyl-2,6-dioxo-1,2,3,6-tetrahydro-pyrimidine-4-carbonyl]-5-methyl-benzonitrile | 0.204 mmol, 86 mg | NC1=NC(=CC(=C1)CN1C(NC(C(=C1C(=O)C=1C=C(C#N)C=C(C1)C)C(C)C)=O)=O)F | C22H20FN5O3
reactant | MsCl | 158 μl, 10 eq. | CS(=O)(=O)Cl | CH3ClO2S
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | N-{4-[6-(3-Cyano-5-methyl-benzoyl)-5-isopropyl-3-methanesulfonyl-2,4-dioxo-3,4-dihydro-2H-pyrimidin-1-ylmethyl]-6-fluoro-pyridin-2-yl}-methanesulfonamide | 89 mg, 75% | C(#N)C=1C=C(C(=O)C2=C(C(N(C(N2CC2=CC(=NC(=C2)F)NS(=O)(=O)C)=O)S(=O)(=O)C)=O)C(C)C)C=C(C1)C | C24H24FN5O7S2
